US04031102
2-t-Butyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide
The title compound was prepared from 2-t-butyl-5,6,7,8-tetrahydroquinoline-8-carboxamide (4 g.) and P2S5 (3 g.) as described in Example 8 and was isolated as creamy needles after recrystallisation from n-hexane m.p. 126° C (650 mgs.). Found: C, 68.18; H, 8.25; N, 11.14%. C14H20N2S requires C,67.70; H, 8.12; N, 11.23%.

reactant | 2-t-butyl-5,6,7,8-tetrahydroquinoline-8-carboxamide | 4 g | C(C)(C)(C)C1=NC=2C(CCCC2C=C1)C(=O)N | C14H20N2O
reactant | P2S5 | 3 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 2-t-Butyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | C(C)(C)(C)C1=NC=2C(CCCC2C=C1)C(N)=S | C14H20N2S
